US07354932B2
Preparation of (3-tert-Butoxycarbonylamino-2-oxo-propyl)-carbamic acid tert-butyl ester:
To a solution of dimethyl sulfoxide (25.2 ml, 0.36 mol) in methylene chloride (357 ml) at −78° C. (dry ice/acetone) was added a solution of oxalyl chloride (20 ml, 0.23 mol) in methylene chloride (115 ml). The reaction mixture was stirred at −78° C. for 30 min under an atmosphere of N2 then a solution of (3-tert-Butoxycarbonylamino-2-hydroxy-propyl)-carbamic acid tert-butyl ester (31.9 g, 0.11 mol) in methylene chloride (300 ml) and triethylamine (75 ml, 0.54 mol) were added. The reaction was stirred for 16 hours, allowing the reaction to warm up to room temperature. The mixture was diluted with water (800 ml) and extracted with methylene chloride (2×300 ml). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo to afford a yellowish oil. Purification via column chromatography on silica gel (ethyl acetate:hexane, 3:7, v/v) afforded the product as a white solid (28 g, 88%). 1H NMR (CDCl3) δ 1.44 (s, 18H), 4.04 (m, 4H), 5.19 (s, 1H).

reactant | dimethyl sulfoxide | 0.36 mol, 25.2 ml | CS(=O)C | C2H6OS
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | oxalyl chloride | 0.23 mol, 20 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3-tert-Butoxycarbonylamino-2-hydroxy-propyl)-carbamic acid tert-butyl ester | 0.11 mol, 31.9 g | C(C)(C)(C)OC(NCC(CNC(=O)OC(C)(C)C)O)=O | C13H26N2O5
reactant | triethylamine | 0.54 mol, 75 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 357 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 115 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | water | 800 ml | O | H2O
product | (3-tert-Butoxycarbonylamino-2-oxo-propyl)-carbamic acid tert-butyl ester | 28 g, 88% | C(C)(C)(C)OC(NCC(CNC(=O)OC(C)(C)C)=O)=O | C13H24N2O5
